US09290485B2
To a mixture of 1H-pyrrole-3-carboxylic acid (1.40 g, 12.60 mmol), tert-butyl 5-(aminomethyl)-4,6-dimethylpyridin-2-ylcarbamate (3.48 g, 13.86 mmol) and DIPEA (6.60 ml, 37.8 mmol) in DCM (100 ml) was added HBTU (5.73 g, 15.12 mmol) at rt and was stirred at rt for 12 hours. The suspension was filtered off. The solid was washed with DCM and dried under reduced pressure to afford pure tert-butyl 5-((1H-pyrrole-3-carboxamido)methyl)-4,6-dimethylpyridin-2-ylcarbamate. HPLC (Method G) Rt=1.35 min; MS [M+H]+=345.2.

reactant | 1H-pyrrole-3-carboxylic acid | 12.60 mmol, 1.40 g | N1C=C(C=C1)C(=O)O | C5H5NO2
reactant | tert-butyl 5-(aminomethyl)-4,6-dimethylpyridin-2-ylcarbamate | 13.86 mmol, 3.48 g | NCC=1C(=CC(=NC1C)NC(OC(C)(C)C)=O)C | C13H21N3O2
reactant | DIPEA | 37.8 mmol, 6.60 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 15.12 mmol, 5.73 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 5-((1H-pyrrole-3-carboxamido)methyl)-4,6-dimethylpyridin-2-ylcarbamate | N1C=C(C=C1)C(=O)NCC=1C(=CC(=NC1C)NC(OC(C)(C)C)=O)C | C18H24N4O3
